US03971806
Ethyl 4,5-dihydro-4-oxothiopyrano[3,2-b]indol-5-acetate
By the same method as described in Example 7, 4.8 g of thiopyrano-[3,2-b]indol-4(5H)-one is alkylated with ethyl bromoacetate to give 6.0 g of product, mp 163°-165°C, after recrystallization from ethyl acetate.

reactant | thiopyrano-[3,2-b]indol-4(5H)-one | 4.8 g | S1C=CC(C=2NC=3C=CC=CC3C21)=O | C11H7NOS
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl 4,5-dihydro-4-oxothiopyrano[3,2-b]indol-5-acetate | 6.0 g | O=C1C=CSC2=C1N(C=1C=CC=CC21)CC(=O)OCC | C15H13NO3S
